US07135475B2
A suspension of N-(4-{3-butyl-1-[2-(tert-butyl-dimethyl-silanyloxy)-benzyl]-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl}-phenyl)-acetamide sodium salt (75 mg, 0.12 mmol) in tetrahydrofuran cooled to 0° C. was treated with tetrabutylammonium fluoride. The reaction was stirred at 0° C. for 1.5 h. At this time, the reaction mixture was treated with a saturated aqueous ammonium chloride solution (1.0 mL) and then diluted with ethyl acetate (50 mL). This solution was washed with water and brine. The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting residue was diluted with acetonitrile. The insolubles were collected, washed with acetonitrile, and dried in vacuo for 24 hrs to afford N-{4-[3-butyl-1-(2-hydroxy-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-acetamide (11.4 mg, 19%) as a white solid: EI-HRMS m/e calcd for C25H27N5O4 (M+) 461.2063, found 461.2073.

reactant | N-(4-{3-butyl-1-[2-(tert-butyl-dimethyl-silanyloxy)-benzyl]-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl}-phenyl)-acetamide sodium salt | 0.12 mmol, 75 mg | [Na].C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC(C)=O)=O)CC1=C(C=CC=C1)O[Si](C)(C)C(C)(C)C)=O
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | 1.0 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-{4-[3-butyl-1-(2-hydroxy-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-acetamide | 11.4 mg, 19% | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC(C)=O)=O)CC1=C(C=CC=C1)O)=O | C25H27N5O4
